US05519133
Preparation of 5-Methoxy-2-nitrobenzoic acid
Sulfamic acid (15.73 g, 0.162 mol) is added to a solution of 5-methoxy-2-nitrobezaldehyde (19.6 g, 0.108 mol) in an acetone/water (1:1) mixture. Sodium chlorite (18.31 g, 80% real, 0.162 mol) is then added to the reaction mixture at a rate which maintains the reaction mixture temperature below 40° C. The resultant reaction mixture is stirred at room temperature for 24 hours and poured into water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with 2N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a yellow solid.

reactant | Sulfamic acid | 0.162 mol, 15.73 g | S(N)(O)(=O)=O | H3NO3S
reactant | 5-methoxy-2-nitrobezaldehyde | 0.108 mol, 19.6 g | COC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C8H7NO4
reactant | acetone water | CC(=O)C.O
reactant | Sodium chlorite | 0.162 mol, 18.31 g | Cl(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-Methoxy-2-nitrobenzoic acid | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
